US05366987
(±)-4-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1H-pyrazole-1-acetamide
In addition to the procedures followed in Example 122, (±)-4-(1-dodecenyl)-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1H-pyrazole-1-acetamide (0.46 g, 0.9 mmol) was dissolved in 75 mL THF and 5% Pd/C (0.1 g) was added. Hydrogen gas (50 psi) was added and the reaction mixture was stirred at room temperature for 2 hours. Filtered to remove the catalyst and concentrated the filtrate to give an oil. Triturated with hexanes to give the title compound as a cream-colored solid (0.45 g, 97%); mp 77°-79° C.

reactant | (±)-4-(1-dodecenyl)-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1H-pyrazole-1-acetamide | 0.9 mmol, 0.46 g | C(=CCCCCCCCCCC)C=1C=NN(C1)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C32H43N3O4
reactant | Hydrogen | [H][H] | H2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | (±)-4-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1H-pyrazole-1-acetamide | 0.45 g, 97% | C(CCCCCCCCCCC)C=1C=NN(C1)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C32H45N3O4
